US05455238
STEP A: [4-cyano-2,3-bis-[(2-methoxy-ethoxy)-methoxy]-phenyl]bromoacetic acid
440 microliters of bromoform were added at -5° C. to a mixture of 4.26 mg of lithium bromide, 598 mg of potassium hydroxide and 5 ml of water and then, a solution of 825 mg of a 4-cyano-2,3-bis-[(2-methoxy-ethoxy)-methoxy]-benzaldehyde (preparation given hereafter) in 5 ml of dioxane was added dropwise. The mixture was stirred for 72 hours at 0° C. to -5° C. and was poured into a stirred mixture at 0° C. to -5° C. of 15 ml of ethyl acetate and 11 ml of hydrochloric acid. Extraction was carried out with ethyl acetate and the extracts were washed, dried and evaporated to dryness under reduced pressure. The oil obtained was used as is for the following step.

reactant | bromoform | 440 microliters | C(Br)(Br)Br | CHBr3
reactant | lithium bromide | 4.26 mg | [Br-].[Li+]
reactant | potassium hydroxide | 598 mg | [OH-].[K+]
reactant | 4-cyano-2,3-bis-[(2-methoxy-ethoxy)-methoxy]-benzaldehyde | 825 mg | C(#N)C1=C(C(=C(C=O)C=C1)OCOCCOC)OCOCCOC | C16H21NO7
reactant | hydrochloric acid | 11 ml | Cl | ClH
reactant | dioxane | 5 ml | O1CCOCC1 | C4H8O2
solvent | ethyl acetate | 15 ml | C(C)(=O)OCC | C4H8O2
solvent | water | 5 ml | O | H2O
product | [4-cyano-2,3-bis-[(2-methoxy-ethoxy)-methoxy]-phenyl]bromoacetic acid | C(#N)C1=C(C(=C(C=C1)C(C(=O)O)Br)OCOCCOC)OCOCCOC | C17H22BrNO8
